US08278290B2
(i) 6-Methoxy-2-(1-methyl-1H-pyrazol-4-yl)-7-nitro-3-(3,4,5-trimethoxyphenylthio)benzo[b]furan
A modified procedure of Buchwald et al (Organic Letters 2002, 4 (20) 3517-3520) was used. A mixture of 4-(3-iodo-6-methoxy-7-nitrobenzofuran-2-yl)-1-methyl-1H-pyrazole (0.0538 g, 0.135 mmol), 3,4,5-trimethoxy thiophenol (Dawson et al, J.Am.Chem.Soc., 2002, 124, 4642-4646), (0.041 g, 0.202 mmol), dry K2CO3 (0.038 g, 0.272 mmol), CuI (0.0051 g, 0.027 mmol) and 2-phenylphenol (0.0091 g, 0.053 mmol) in dry toluene (1.5 ml) was degassed under reduced pressure and saturated with dry N2. The resulting mixture was stirred for 30 h at 110° C. under N2, cooled to room temperature and filtered through a pad of celite. The celite was washed with CH2Cl2 (3×20 ml). The combined filtrates were evaporated to dryness under reduced pressure and the residue was purified by flash column chromatography (silica-gel, CH2Cl2/ethyl acetate 9:1) giving the title compound as a creamy solid (0.016 g, 25%). 1H NMR (300 MHz, CDCl3) 8.17 (s, 1H), 8.06 (s, 1H), 7.46 (d, J=8.75 Hz, 1H), 6.94 (d, J=8.75 Hz, 1H), 6.4 (s, 2H), 3.97 (s, 3H), 3.95(s, 3H), 3.77 (s, 3H), 3.68 (s, 6H).

reactant | 4-(3-iodo-6-methoxy-7-nitrobenzofuran-2-yl)-1-methyl-1H-pyrazole | 0.135 mmol, 0.0538 g | IC1=C(OC2=C1C=CC(=C2[N+](=O)[O-])OC)C=2C=NN(C2)C | C13H10IN3O4
reactant | 3,4,5-trimethoxy thiophenol | 0.202 mmol, 0.041 g | COC=1C=C(C=C(C1OC)OC)S | C9H12O3S
reactant | K2CO3 | 0.272 mmol, 0.038 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-phenylphenol | 0.053 mmol, 0.0091 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 0.027 mmol, 0.0051 g | [Cu]I
product | 6-Methoxy-2-(1-methyl-1H-pyrazol-4-yl)-7-nitro-3-(3,4,5-trimethoxyphenylthio)benzo[b]furan | 0.016 g, 25% | COC=1C=CC2=C(OC(=C2SC2=CC(=C(C(=C2)OC)OC)OC)C=2C=NN(C2)C)C1[N+](=O)[O-] | C22H21N3O7S
